US04454338
Synthesis of 4-guanidino-3-methylbenzoic acid hydrochloride:
To 140 ml of ethanol, was added 22.6 g of 4-amino-3-methylbenzoic acid hydrochloride followed by 7.6 g of cyanamide. After having been stirred overnight at 60° C., the reaction mixture was freed from the solvent by distillation under reduced pressure and mixed with acetone to collect the crystals by filtration. The crystals were washed with acetone and recrystallized from a mixture of ethanol and ethyl acetate to obtain 8.9 g of white granular crystals of 4-guanidino-3-methylbenzoic acid hydrochloride.

reactant | 4-amino-3-methylbenzoic acid hydrochloride | 22.6 g | Cl.NC1=C(C=C(C(=O)O)C=C1)C
reactant | cyanamide | 7.6 g | N#CN | CH2N2
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 4-guanidino-3-methylbenzoic acid hydrochloride | 8.9 g | Cl.N(C(=N)N)C1=C(C=C(C(=O)O)C=C1)C | InChI=1S/C9H11N3O2.ClH/c1-5-4-6(8(13)14)2-3-7(5)12-9(10)11;/h2-4H,1H3,(H,13,14)(H4,10,11,12);1H
